US20010000513A1
To a stirred solution of 4-(4′-cyano-biphenyl-4-yl)4-oxo-butyric acid, methyl ester (0.143 g, 0.000488 mol) in tetrahydrofuran at 15° C. was added in one portion a 1.0 M aqueous solution of sodium hydroxide (0.50 mL, 0.00050 mol), and the mixture was allowed to stir at room temperature for 18 hours. The THF was rotary evaporated, and the residue was partitioned between water and chloroform. The aqueous layer was washed with additional chloroform. The aqueous layer was acidified with 1.0 M aqueous hydrochloric acid (0.50 mL), and extracted with dichloromethane-tetrahydrofuran (50/50 v/v). The extract was washed with brine, dried (Na2SO4) and rotary evaporated. The residue was dried in vacuo to give 0.130 g of 4-(4′-cyano-biphenyl-4-yl)-4-oxo-butyric acid as a pale yellow solid, mp 191-193° C.

reactant | 4-(4′-cyano-biphenyl-4-yl)4-oxo-butyric acid, methyl ester | 0.000488 mol, 0.143 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C18H15NO3
reactant | sodium hydroxide | 0.00050 mol, 0.50 mL | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4′-cyano-biphenyl-4-yl)-4-oxo-butyric acid | 0.130 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C17H13NO3
